US07531537B2
Methyl trans-4-aminocyclohexanecarboxylate hydrochloride (45.31 g) is suspended in dichloromethane (1000 ml), thereto is added 4-chlorobutyryl chloride (31.5 ml) under ice-cooling and to the mixture is added dropwise a solution of triethylamine (81.5 ml) in dichloromethane (80 ml). The reaction solution is warmed to room temperature, stirred for 3 hours and the reaction solution is concentrated under reduced pressure. To the resulting residue are poured ethyl acetate and 5% hydrochloric acid, and the organic layer is separated, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine. The organic layer is dried over sodium sulfate and treated with activated carbon, and the filtrate is concentrated under reduced pressure. The resulting residue is suspended in diisopropyl ether, filtered to collect the precipitates, dried to give methyl trans-4-(4-chlorobutyrylamino)cyclohexanecarboxylate (38.81 g).

reactant | Methyl trans-4-aminocyclohexanecarboxylate hydrochloride | 45.31 g | Cl.N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | 4-chlorobutyryl chloride | 31.5 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | triethylamine | 81.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | methyl trans-4-(4-chlorobutyrylamino)cyclohexanecarboxylate | 38.81 g | ClCCCC(=O)N[C@@H]1CC[C@H](CC1)C(=O)OC | C12H20ClNO3
